US04034106
A mixture of 20.8 g. of 1-(benzodioxan-5-yloxy)-2,3-epoxypropane and 120 g. of ethylenediamine is heated at 90° C. for 18 hours and is then evaporated to dryness under reduced pressure. The residue is stirred with 100 ml. of water and the mixture is extracted four times with 100 ml. of chloroform each time. The combined chloroform extracts are dried and evaporated to dryness under reduced pressure and there is thus obtained as residue 3-β-aminoethylamino-1-(benzodioxan-5-yloxy)-2-propanol.

reactant | 1-(benzodioxan-5-yloxy)-2,3-epoxypropane | O1CCOC2=C1C=CC=C2OCC2CO2 | C11H12O4
reactant | ethylenediamine | C(CN)N | C2H8N2
product | 3-β-aminoethylamino-1-(benzodioxan-5-yloxy)-2-propanol | NCCNCC(COC1=CC=CC=2OCCOC21)O | C13H20N2O4
